US05541335
14.11 g of 2-methylamino-2-methylthio-1-nitroethylene was added to a solution of 15.81 g of 4-[[(2-aminoethyl)thio]-methyl]-2-hydroxymethylthiazole in 190 ml of DMF. The solution was stirred at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure to give a residue which was chromatographed on silica gel eluting with 5-10% methanol in acetonitrile to give 12.8 g (61%) of N-[2-[[[2-(hydroxymethyl)-4-thiazolyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine.

reactant | 2-methylamino-2-methylthio-1-nitroethylene | 14.11 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
reactant | 4-[[(2-aminoethyl)thio]-methyl]-2-hydroxymethylthiazole | 15.81 g | NCCSCC=1N=C(SC1)CO | C7H12N2OS2
solvent | DMF | 190 ml | CN(C)C=O | C3H7NO
product | N-[2-[[[2-(hydroxymethyl)-4-thiazolyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 12.8 g, 61% | OCC=1SC=C(N1)CSCCNC(=C[N+](=O)[O-])NC | C10H16N4O3S2
